US08623896B2
To a solution of 2-bromo-4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-benzoic acid methyl ester (Example I13) (2.52 g) in dry N,N-dimethylformamide (75 ml) was added copper(I) cyanide (1.145 g). The reaction mixture was stirred at 160° C. for 40 minutes. The reaction mixture was allowed to cool to ambient temperature and was poured into a mixture of aqueous sodium carbonate (saturated) and water (1:2) (150 ml). The mixture was extracted with ethyl acetate (3×70 ml). The combined organic extracts were washed with water (2×70 ml) and brine (70 ml), dried over sodium sulfate and concentrated. The residue was re-crystallized from a mixture of diethyl ether and heptane (1:1) to give methyl 2-cyano-4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-benzoic acid methyl ester (1.474 g). 1H-NMR (CDCl3, 400 MHz): 8.23-7.45 (m, 6H), 4.11 (d, 1H), 4.03 (s, 3H), 3.74 (d, 1H).

reactant | 2-bromo-4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-benzoic acid methyl ester | 2.52 g | COC(C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)Br)=O | C18H11BrCl2F3NO3
reactant | copper(I) cyanide | 1.145 g | [Cu]C#N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 150 ml | O | H2O
solvent | N,N-dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | methyl 2-cyano-4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-benzoic acid methyl ester | 1.474 g | COC(C1=C(C(=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)C#N)=O | C20H13Cl2F3N2O3
